US04394506
N-[(2,6-dimethylpyrimidin-4-yl)aminocarbonyl]2-methoxycarbonylbenzenesulfonamide
To a suspension of 1.2 g of 4-amino-2,6-dimethylpyrimidine in 30 ml of dry acetonitrile with stirring was added 2.4 g of 2-methoxycarbonylbenzenesulfonylisocyanate. The mixture was stirred for two hours at ambient temperature, allowed to stand for sixteen hours and the desired product, which had precipitated, was removed by filtration and washed with butyl chloride to yield 2.4 g, m.p. 125°-127°. The product showed absorption peaks by Nuclear Magnetic Resource at 4.0, 2.62 and 2.9 ppm; consistent for the product.

reactant | 4-amino-2,6-dimethylpyrimidine | 1.2 g | NC1=NC(=NC(=C1)C)C | C6H9N3
reactant | 2-methoxycarbonylbenzenesulfonylisocyanate | 2.4 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-[(2,6-dimethylpyrimidin-4-yl)aminocarbonyl]2-methoxycarbonylbenzenesulfonamide | CC1=NC(=CC(=N1)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC)C | C15H16N4O5S
